US06350749B1
A solution of 5-phenylcyclohexane-1,3-dione (5.0 g), ammonium acetate (6.1 g) in ethanol (100 ml) was refluxed for 13 hours. Under reduced pressure, the solvent was evaporated, and to the residue were added ethyl acetate and water. Precipitated crystals were filtered, washed with water and dried to give pale yellow crystals of 1-amino-5-phenylcyclohexen-3-one (5.2 g).

reactant | 5-phenylcyclohexane-1,3-dione | 5.0 g | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
reactant | ammonium acetate | 6.1 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-amino-5-phenylcyclohexen-3-one | 5.2 g | NC1=CC(CC(C1)C1=CC=CC=C1)=O | C12H13NO
